US07576115B2
4) Synthesis of 4-hydroxymethyl-3-nitrobenzoic acid {1-[S-(4-tert-butylphenyl)-4-hydroxythiophen-3-yl]-ethylidene}hydrazide
A solution of 2-(4-tert-butylphenyl)-3-hydroxy-4-methyl-carbonylthiophene (27.8 mg, 0.10 mmol), 4-(tert-butyl-dimethylsilanyloxymethyl)-3-nitrobenzoic acid hydrazide (34.9 mg, 0.11 mmol) and p-toluenesulfonic acid monohydrate (5.7 mg, 0.03 mmol) in isopropanol (1.0 mL) was stirred at 95° C. for 7 hours. The precipitated solid was collected by filtration and dried by means of a vacuum pump to give the desired product as yellow solid (34.8 mg, yield 73%).

reactant | 2-(4-tert-butylphenyl)-3-hydroxy-4-methyl-carbonylthiophene | 0.10 mmol, 27.8 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1S(C=C(C1O)C)=C=O | C16H18O2S
reactant | 4-(tert-butyl-dimethylsilanyloxymethyl)-3-nitrobenzoic acid hydrazide | 0.11 mmol, 34.9 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(C=C(C(=O)NN)C=C1)[N+](=O)[O-] | C14H23N3O4Si
reactant | p-toluenesulfonic acid monohydrate | 0.03 mmol, 5.7 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | isopropanol | 1.0 mL | C(C)(C)O | C3H8O
product | 4-hydroxymethyl-3-nitrobenzoic acid {1-[S-(4-tert-butylphenyl)-4-hydroxythiophen-3-yl]-ethylidene}hydrazide | 34.8 mg, yield 73% | C(C)(C)(C)C1=CC=C(C=C1)S1C=C(C(=C1)O)C(C)=NNC(C1=CC(=C(C=C1)CO)[N+](=O)[O-])=O | C24H27N3O5S
